US06096930
v) 5-(7-Chloro-2-ethyl-2,4,5-trimethylindan-6-yl)-cyclohexane-1,3-dione
To a solution of 1.53 g of sodium in 100 ml of absolute methanol was added 10 ml of diethyl malonate, and then the reaction mixture was added 12.65 g of 4-(5-chloro-2,2,4,7-tetramethylindan-6-yl)-3-buten-2-one in 50 ml of absolute methanol. After refluxing for 4 hours, the reaction mixture was evaporated under reduced pressure and then added 70 g of 10% aqueous solution of NaOH. After refluxing for 4 hours, the reaction mixture was cooled to room temperature and washed twice with diethyl ether. Concentrated hydrochloric acid was added dropwise into the boiling aqueous layers until the bubble of gas ceased and then the reaction mixture was cooled to room temperature. Solid produce was collected and dried to afford 11.9 g of the titile compound as yellow solid.

reactant | sodium | 1.53 g | [Na] | Na
reactant | diethyl malonate | 10 ml | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 4-(5-chloro-2,2,4,7-tetramethylindan-6-yl)-3-buten-2-one | 12.65 g | ClC=1C(=C2CC(CC2=C(C1C=CC(C)=O)C)(C)C)C | C17H21ClO
reactant | methanol | 100 ml | CO | CH4O
reactant | methanol | 50 ml | CO | CH4O
product | 5-(7-Chloro-2-ethyl-2,4,5-trimethylindan-6-yl)-cyclohexane-1,3-dione | 11.9 g, Yield: 87% | ClC=1C(=C(C(=C2CC(CC12)(C)CC)C)C)C1CC(CC(C1)=O)=O | C20H25ClO2
